US07495007B2
In a manner similar to the method described in example 4d, (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-(2,6-dimethylphenyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-carboxylic acid ethyl ester (0.41 g, 0.76 mmol) was reacted with NaOH (0.4 g, 10 mmol) in methanol to give racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-(2,6-dimethylphenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (Yield 0.25 g, 71%).

reactant | (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-(2,6-dimethylphenyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-carboxylic acid ethyl ester | 0.76 mmol, 0.41 g | C(C)OC(=O)N1C([C@@]2([C@H](NC(C[C@H]2C2=CC(=CC=C2)Cl)=O)C2=C(C=CC=C2C)C)C2=CC=C(C=C12)Cl)=O | C29H26Cl2N2O4
reactant | NaOH | 10 mmol, 0.4 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-(2,6-dimethylphenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | Yield 0.25 g, 71% | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC=C1C)C)=O | C26H22Cl2N2O2
